US05232940
5-Carbamoyl-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (3.57 g) was heated to 200° C. with phosphorus pentoxide (2.82 g) with stirring. After 3 hours, the cooled product was treated with ice, and extracted with dichloromethane (3×50 ml). The organic solution was washed with water, dried over anhydrous magnesium sulphate, and evaporated in vacuo to give a solid. Recrystallization from hexane gave 1-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyano-3-trifluoromethylpyrazole in the form of white crystals (1.8 g), m.p. 80° C.

reactant | 5-Carbamoyl-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 3.57 g | C(N)(=O)C1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C#N | C13H4Cl2F6N4O
reactant | phosphorus pentoxide | 2.82 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyano-3-trifluoromethylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C#N)C#N)C(F)(F)F | C13H2Cl2F6N4
